US08859584B2
7-(trifluoromethoxy)chroman-4-one
A solution of 3-(trifluoromethoxy)phenol (7.13 mL, 55.0 mmol) and 3-chloropropanoyl chloride (5.5 mL, 57.6 mmol) in trifluoroacetic acid (25 mL) was stirred 15 minutes at ambient temperature, and then heated at 50° C. for 90 minutes. After stirring at ambient temperature overnight, the solution was added over 5 minutes to preheated triflic acid (20 mL) at 50° C. After 20 minutes, the mixture was removed from the oil bath, then cooled in an ice water bath. Crushed ice was added, slowly at first, keeping the temperature of the orange solution below 25° C. Eventually a solid precipitate formed, and the suspension was diluted with MTBE (200 mL). The mixture was cooled in an ice water bath. It was washed with brine and then four times with water, partially dried (Na2SO4), filtered, and concentrated. After standing overnight, the yellow mixture was dissolved in ethanol (180 mL) and added slowly over 22 minutes to 1.5 M aqueous Na2CO3 (180 mL) cooled with a water ice bath (internal temp did not exceed 15° C.). The suspension was permitted to come to ambient temperature overnight, and was then diluted with 2:1 EtOAc/hexanes (300 mL) and filtered. The solids were rinsed with more 2:1 solution (105 mL), and the aqueous phase of the filtrate was separated and extracted with 1:1 EtOAc/hexanes (3×100 mL). The combined organic phases were washed once with water (200 mL), and the aqueous phase was back-extracted once with 1:1 solution (40 mL). The organic phases were combined and washed with brine (30 mL), dried (Na2SO4), filtered, and concentrated, chromatographed on silica (gradient elution, 5-20% Et2O/hexanes) to give the title compound (4.95 g, 21.3 mmol, 39% yield). 1H NMR (300 MHz, DMSO-d6) δ 7.90-7.85 (m, 1H), 7.08-7.01 (m, 2H), 4.61 (dd, 2H), 2.83 (dd, 2H).

reactant | 3-(trifluoromethoxy)phenol | 55.0 mmol, 7.13 mL | FC(OC=1C=C(C=CC1)O)(F)F | C7H5F3O2
reactant | 3-chloropropanoyl chloride | 57.6 mmol, 5.5 mL | ClCCC(=O)Cl | C3H4Cl2O
reactant | triflic acid | 20 mL | OS(=O)(=O)C(F)(F)F | CHF3O3S
solvent | trifluoroacetic acid | 25 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | MTBE | 200 mL | CC(C)(C)OC | C5H12O
product | 7-(trifluoromethoxy)chroman-4-one | 21.3 mmol, 4.95 g, 39% yield | FC(OC1=CC=C2C(CCOC2=C1)=O)(F)F | C10H7F3O3
